US04692524
14.0 g (0.067 mole) of 4-difluoromethoxy-6-hydroxy-2-methylthiopyrimidine are suspended in 18 ml of 50% potassium hydroxide solution, 10 ml of water and 160 ml of dioxane. After the addition of 0.5 g of 18-crown-6, the reaction mixture is heated to 40° C., and 20 g of chlorodifluoromethane are subsequently introduced over 5 hours. The aqueous phase is then separated and the organic phase is distilled under a high vacuum, affording 15.0 g (86.4% of theory) of 4,6-bis-difluoromethoxy-2-methylthiopyrimidine with a boiling point of 63° C./0.06 mbar. The substance melts at 46°-48° C.

reactant | 4-difluoromethoxy-6-hydroxy-2-methylthiopyrimidine | 0.067 mole, 14.0 g | FC(OC1=NC(=NC(=C1)O)SC)F | C6H6F2N2O2S
reactant | water | 10 ml | O | H2O
reactant | dioxane | 160 ml | O1CCOCC1 | C4H8O2
reactant | chlorodifluoromethane | 20 g | ClC(F)F | CHClF2
solvent | potassium hydroxide | 18 ml | [OH-].[K+]
catalyst | 18-crown-6 | 0.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | 4,6-bis-difluoromethoxy-2-methylthiopyrimidine | 15.0 g, 86.4% | FC(OC1=NC(=NC(=C1)OC(F)F)SC)F | C7H6F4N2O2S
